US08426585B2
Step 1) 3-(tetrahydro-2H-pyran-2-yloxy)propanoic acid
To a mixture of 3-hydroxypropanoic acid (7.2 g, 80 mmol, TCI, TOKYO KASEI) and DHP (13.4 g, 160 mmol, Alfa) in dichloromethane (100 mL) and THF (100 mL) was added PPTS (2 g, 8 mmol, Aldrich) in portions. The reaction mixture was stirred at rt overnight, and was quenched with 50 mL of saturated NaHCO3 aqueous solution. The resulted mixture was extracted with dichloromethane (50 mL×5). The combined organic phases were dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (1:1 (v/v) petroleum ether/EtOAc) to give colorless oil (7.8 g, 56%).

reactant | 3-hydroxypropanoic acid | 80 mmol, 7.2 g | OCCC(=O)O | C3H6O3
reactant | DHP | 160 mmol, 13.4 g | C1CC=COC1 | C5H8O
reactant | PPTS | 8 mmol, 2 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-(tetrahydro-2H-pyran-2-yloxy)propanoic acid | 7.8 g, 56% | O1C(CCCC1)OCCC(=O)O | C8H14O4
